US04386073
Step 3: N-(L-Pyroglutamyl-L-leucyl)-piperidine
2.0 g (4.51 mmoles) of Z-Glp-Leu-piperidine are dissolved in 40 ml of methanol, 0.4 g of a 10% palladium-on-carbon catalyst are added to the solution, and hydrogen is bubbled through the mixture for one hour. The catalyst is filtered off, the filtrate is evaporated, and the residue is crystallized from ether. 1.12 g (81%) of Glp-Leu-piperidine are obtained; m.p.: 99°-100° C., Rf5 =0.71, [α]D25 =+30.4° (c=1%, in acetic acid). Analysis for amino acids: Glu=0.95 (1.0), Leu=1.00 (1.0).

reactant | Glu | N[C@@H](CCC(O)=O)C(=O)O | C5H9NO4
reactant | Leu | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | N-(L-Pyroglutamyl-L-leucyl)-piperidine | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC(C)C)C(=O)N1CCCCC1 | C16H27N3O3
